US04845110
(a) 3-Cyano-cinnamyl alcohol
Dimethylformamide (0.1 ml) was added to a stirred suspension of 3-cyano-cinnamic acid (30 g) in dry ether (500 ml) containing oxalyl chloride (15 ml). The mixture was stirred for 6 hours, filtered and evaporated to give the crude acid chloride as a pale solid. A solution of this acid chloride in ether (100 ml) and tetrahydrofuran (100 ml) was added to a stirred suspension of sodium borohydride-doped alumina (20 g sodium borohydride on 200 g alumina) in ether (200 ml). The mixture was stirred for 1 hour and then filtered. The filtrate was evaporated and the residue was chromatographed on silica-gel eluting with 2:1 ether:hexane to give the product as a pale oil.

reactant | Dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | 3-cyano-cinnamic acid | 30 g | C(#N)C=1C=C(C=CC(=O)O)C=CC1 | C10H7NO2
reactant | oxalyl chloride | 15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium borohydride | 20 g | [BH4-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-Cyano-cinnamyl alcohol | C(#N)C=1C=C(C=CCO)C=CC1 | C10H9NO
